US05569768
2-[5-(2-Cyanophenyl)-1H-benzimidazol-1-yl]octanoic acid 2-pyridylethylester (0.042 moles, 19.6 g) was dissolved in 20 ml of methanol and 8 ml of 1N NaOH. The solution was stirred at room temperature for 3 hours. The reaction was concentrated under vacuum, dissolved in water, and washed with ether. The pH was adjusted to 3.0 with 5N HCl. The intermediate was extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate, and concentrated. The reaction produced 13.0 g of 2-[5-(2-cyanophenyl)-1H-benzimidazol-1-yl]octanoic acid. (MS).

reactant | 2-[5-(2-Cyanophenyl)-1H-benzimidazol-1-yl]octanoic acid 2-pyridylethylester | 0.042 moles, 19.6 g | N1=C(C=CC=C1)CCOC(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C#N)=O | C29H30N4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | NaOH | 1N, 8 ml | [OH-].[Na+]
product | 2-[5-(2-cyanophenyl)-1H-benzimidazol-1-yl]octanoic acid | 13.0 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H23N3O2
